US07411072B2
N-[3-(2,8-Dimethoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide
Following procedures essentially as described in Example 219, below, and using 3-methanesulfonamidophenyl boronic acid (473 mg, 2.2 mmol) with 5-bromomethylene-2,8-dimethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (690 mg, 2 mmol) to give 1.3 g crude product. Purify the crude product using column chromatography eluting with 10% EtOAc/hexane to 30% EtOAc/hexane to give 340 mg (39%) product as a pale yellow solid, mp 109.6° C. MS (ES) 436 (M+1), 434 (M−1). HPLC shows 91% purity at t=3.11 min.

reactant | 3-methanesulfonamidophenyl boronic acid | 2.2 mmol, 473 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | 5-bromomethylene-2,8-dimethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 2 mmol, 690 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)OC)C=C(C=C2)OC | C18H17BrO2
product | N-[3-(2,8-Dimethoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | 340 mg, 39% | COC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=CC=3C=C(C=CC3)NS(=O)(=O)C)C=C1 | C25H25NO4S
